US08071597B2
N-{3-[(2,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-1-methyl-1H-imidazole-4-sulfonamide (13) (Scheme 5)
N-(2,5-dimethoxyphenyl)quinoxaline-2,3-diamine (50 mg, 0.17 mmol), 1-methylimidazole-4-sulfonylchloride (91.4 mg, 0.51 mmol, commercially available from Acros) are dissolved in pyridine (0.3 ml) and the reaction mixture was stirred at rt, overnight. When TLC confirms the total consumption of N-(2,5-dimethoxyphenyl)quinoxaline-2,3-diamine, the product is extracted with CHCl3. The organic layer is washed with water, 1.5N HCl and brine then dried over Na2SO4. The solvent is removed under reduced pressure and the residue obtained is purified by recrystallization from MeOH to afford 47 mg (64%) of the title compound as a yellow solid. HPLC (max plot) 95%, rt. 3.91 min. LC/MS: (ES+): 441.2.

reactant | N-(2,5-dimethoxyphenyl)quinoxaline-2,3-diamine | 0.17 mmol, 50 mg | COC1=C(C=C(C=C1)OC)NC1=NC2=CC=CC=C2N=C1N | C16H16N4O2
reactant | 1-methylimidazole-4-sulfonylchloride | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | N-{3-[(2,5-dimethoxyphenyl)amino]quinoxalin-2-yl}-1-methyl-1H-imidazole-4-sulfonamide | 47 mg, 64% | COC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C=1N=CN(C1)C | C20H20N6O4S
